US08183280B2
F. (2S)-1-(2′-(N-(2-Methoxybenzoyl)-N-(2-methylpropyl)amino)acetyl)pyrrolidine-2-carbonitrile
(2S)-1-(2-(N-tert-Butyloxycarbonyl-N-(2-methylpropyl)amino)acetyl)pyrrolidine-2-carbonitrile (25 mg, 0.081 mmol) was treated with trifluoroacetic acid (50 ml). After 1 h at room temperature the solvent was removed in vacuo and the residue dissolved in CH2Cl2 (100 ml). The solution was cooled to 0° C., triethylamine (30 mg, 0.3 mmol) was added followed by 2-anisoyl chloride (15 mg, 0.088 mmol). After 18 h at 0° C. to room temperature the solvent was removed in vacuo and the residue dissolved in ethyl acetate (200 ml). This solution was washed with 0.3M KHSO4, sat. NaHCO3, water and brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (eluant: 2% methanol, 98% chloroform) to give a colourless oil identified as the title compound (18 mg, 0.052 mmol, 66%).

reactant | (2S)-1-(2-(N-tert-Butyloxycarbonyl-N-(2-methylpropyl)amino)acetyl)pyrrolidine-2-carbonitrile | 0.081 mmol, 25 mg | C(C)(C)(C)OC(=O)N(CC(C)C)CC(=O)N1[C@@H](CCC1)C#N | C16H27N3O3
reactant | triethylamine | 0.3 mmol, 30 mg | C(C)N(CC)CC | C6H15N
reactant | 2-anisoyl chloride | 0.088 mmol, 15 mg | C(C=1C(=CC=CC1)OC)(=O)Cl | C8H7ClO2
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S)-1-(2′-(N-(2-Methoxybenzoyl)-N-(2-methylpropyl)amino)acetyl)pyrrolidine-2-carbonitrile | 0.052 mmol, 18 mg, 66% | COC1=C(C(=O)N(CC(C)C)CC(=O)N2[C@@H](CCC2)C#N)C=CC=C1 | C19H25N3O3
